US04243408
To a stirred solution of 16.0 g (0.068 mol) 1-(2,6-dimethylphenylaminoacetyl)-2-acetylhydrazine in 150 ml pyridine was added 15.1 g (0.068 mol) phosphorus pentasulfide in small portions. A mild exotherm ensued. The reaction mixture was heated to 140°-150° C. when an exotherm ensued. The reaction temperature rose to 170° C., and then subsided. Hydrogen sulfide was liberated. The reaction was kept at 140°-150° C. for 2 hours and then at 25° C. for about 16 hours. The pyridine solution was decanted from a gummy brown residue. The residue was extracted with dichloromethane. The dichloromethane extracts were combined with the pyridine solution and evaporated under reduced pressure to give an oil. The oil was dissolved in dichloromethane and treated with ice water to destroy a small amount of unreacted phosphorus pentasulfide. The dichloromethane solution was then washed with cold dilute aqueous sodium hydroxide solution, water, dried over magnesium sulfate, filtered and evaporated under reduced pressure at 40°-50° C. to give an oil. The oil was column chromatographed on 200 g silica gel using petroleum ether/diethyl ether as eluants. The major fractions were combined in dichloromethane, dried over magnesium sulfate, filtered and evaporated under reduced pressure to give a clear oil which crystallized upon trituration with petroleum ether to give 11.6 g of 2-(2,6-dimethylphenylaminomethyl)-5-methyl-1,3,4-thiadiazole, m.p. 68°-69° C. The product is tabulated in Table I as Compound No. 29A.

reactant | 1-(2,6-dimethylphenylaminoacetyl)-2-acetylhydrazine | 0.068 mol, 16.0 g | CC(C(=O)NNC(C)=O)NC1=CC=CC=C1C | C12H17N3O2
reactant | phosphorus pentasulfide | 0.068 mol, 15.1 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | Hydrogen sulfide | S | H2S
reactant | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(2,6-dimethylphenylaminomethyl)-5-methyl-1,3,4-thiadiazole | 11.6 g | CC1=C(C(=CC=C1)C)NCC=1SC(=NN1)C | C12H15N3S
